data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_705864_0,[C:1]([O:5]/[C:2]([C:3](=[C:4]([H:13])[H:14])[H:12])=[N:7]\[H:9])([O:6][H:8])([H:10])[H:11]>>[C:1]([O:5]/[C:2]([C:3]([C:4]([H:8])([H:13])[H:14])([H:11])[H:12])=[N:7]\[H:9])(=[O:6])[H:10],49.06234250000878
MR_134492_0,[C:1]1([H:9])([H:10])[C:2]([N:3]([H:7])[H:8])=[N:5][N:4]=[N:6]1>>[C:1]1([H:9])([H:10])[C:2]2([N:3]([H:7])[H:8])[N:5]=[N:4][N:6]12,65.79086500004138
MR_106230_1,[C:1]([C:5]([N:4]([N:6]([H:10])[H:11])[C:8](=[C:7]([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])[H:12])=[C:9]([H:22])[H:23])([H:13])([H:14])[H:15]>>[C:1]([C:5]([C:7]([C:2]([H:16])([H:17])[H:21])([C:3]([H:18])([H:19])[H:20])/[C:8](=[N:4]/[N:6]([H:10])[H:11])[H:12])=[C:9]([H:22])[H:23])([H:13])([H:14])[H:15],64.76490249999216
MR_152462_0,[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[O:6][O:7][C:2]([H:12])([H:13])[H:14]>>[C@@:1]([C:3]([H:15])([H:16])[H:17])([N:4]([H:8])[H:9])([O:6][N:5]([H:10])[H:11])[O:7][C:2]([H:12])([H:13])[H:14],52.803497499979954
MR_179915_1,[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]/[N:6]([H:9])[H:10])([H:11])[H:12]>>[C:1](=[C:5]([C:3]([H:16])([H:17])[H:18])[N:7]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])[N:6]([H:9])[H:10])([H:11])[H:12],52.11011000001847
MR_150544_0,[C:1]([N:2]([H:9])[H:10])(=[N:6]\[O:5][H:8])/[N:7]=[C:4](\[N:3]([H:11])[H:12])[H:13]>>[C:1]1([N:2]([H:9])[H:10])=[N:7][C@:4]([N:3]([H:11])[H:12])([H:13])[N:6]1[O:5][H:8],41.89127249999402
MR_650987_1,[C@@:1]([C@@:2]([C:3]([H:16])([H:17])[H:18])([N:6]([H:14])[H:15])[H:11])([C:4](=[C:7]([H:19])[H:20])[O:8][H:9])([N:5]([H:12])[H:13])[H:10]>>[C@:1]([C:4]([C@@:2]([C:3]([H:16])([H:17])[H:18])([N:6]([H:14])[H:15])[H:11])=[C:7]([H:19])[H:20])([N:5]([H:12])[H:13])([O:8][H:9])[H:10],67.26423499999541
MR_402515_0,[C:1]1([O:6][H:8])([H:10])[O:5][N:3]([H:9])[C:4]([C:2]([H:11])([H:12])[H:13])=[N:7]1>>[C:1]1([H:10])=[N:7][C:4]([C:2]([H:11])([H:12])[H:13])([O:6][H:8])[N:3]([H:9])[O:5]1,55.28588750002598
MR_318839_0,[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([O:8][C:4]([H:16])([H:17])[H:18])[H:10])([N:6]([H:11])[H:12])([O:7][C:3]([H:13])([H:14])[H:15])[H:9]>>[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([O:7][C:3]([H:13])([H:14])[H:15])[H:10])([N:6]([H:11])[H:12])([O:8][C:4]([H:16])([H:17])[H:18])[H:9],69.65501000002305
MR_330363_1,[C:1](/[C:4](=[C:3]([C:5](\[C:2]([H:16])([H:17])[H:18])=[N:8]/[H:12])/[O:7][H:9])[N:6]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C@@:4]1([N:6]([H:10])[H:11])[C:3]([O:7][H:9])=[C:5]([C:2]([H:16])([H:17])[H:18])[N:8]1[H:12])([H:13])([H:14])[H:15],36.30526750000797
MR_61610_1,[C:1]([C:3]([C:2]([H:12])([H:13])[H:14])=[O:6])([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[H:7]>>[C:1]1([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[C:3]([C:2]([H:12])([H:13])[H:14])([H:7])[O:6]1,38.18023750001814
MR_582341_2,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[N:3]([C:5](=[C:6]([H:16])[H:17])[H:9])[O:7][H:8])([H:10])([H:11])[H:12]>>[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[C@:5]1([H:9])[N:3]([O:7][H:8])[C:6]1([H:16])[H:17])([H:10])([H:11])[H:12],69.2063475000144
MR_593816_1,[C:1]([C:2]([O:3][O:4][H:8])=[O:7])([O:5][H:9])([O:6][H:10])[H:11]>>[C:1]([O:3][C:2]([O:4][H:8])=[O:7])([O:5][H:9])([O:6][H:10])[H:11],36.24753749997538
MR_274252_0,[C:1]([C:3]([C:2]([O:5][H:9])=[O:6])=[O:7])([C:4](=[O:8])[H:12])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:3](=[O:7])[C:2]([O:5][H:9])([H:12])[O:6][C:4]1=[O:8],64.24847000001193
MR_403303_1,[C:1]1([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])[C:6]([N:5]([N:7]([H:11])[H:12])[H:10])([O:8][C:2]([H:14])([H:15])[H:16])[N:9]1[H:13]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])(/[C:6]([N:5]([N:7]([H:11])[H:12])[H:10])=[N:9]/[H:13])[O:8][C:2]([H:14])([H:15])[H:16],71.53499999998488
MR_586807_1,[C:1]([C:4]([O:6][H:9])=[O:8])([N:7]=[C:5]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:4]([O:8])[N:7]1[C:5]([C:2]([H:12])([H:13])[H:17])([C:3]([H:14])([H:15])[H:16])[O:6][H:9],72.12234000003576
MR_42524_0,[C:1]([C:3]([H:12])([H:15])[H:16])([C:4]([H:13])([H:14])[H:17])([C:6]([O:7][C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[H:11])=[O:8])[H:9]>>[C:1]([C:3]([H:12])([H:15])[H:16])([C:4]([H:13])([H:14])[H:17])([C:6](=[O:7])[O:8][C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[H:11])[H:9],49.42189999999272
MR_594174_0,[C:1]1([C:3]([H:14])([H:15])[H:16])([H:11])[C:5]([C:2]([C:4]([H:17])([H:18])[H:19])([O:7][H:10])[H:12])([O:6][H:9])[N:8]1[H:13]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:5]([C:2]([C:4]([H:17])([H:18])[H:19])([O:7][H:10])[H:12])=[N:8][H:13])([O:6][H:9])[H:11],58.080772499996414
MR_523350_1,[C@:1]([N:5]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])([O:8][H:10])(/[N:9]=[C:6](\[C:4]([H:20])([H:21])[H:22])[N:7]([H:12])[H:13])[H:11]>>[C:1](\[O:8][H:10])(=[N:9]\[C@:6]([C:4]([H:20])([H:21])[H:22])([N:5]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])[N:7]([H:12])[H:13])[H:11],53.61924750002487
